data/polar.json
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O:3]=[S:19](=[O:4])([N:17]([F:15])[S:18](=[O:5])(=[O:6])[c:28]1[cH:9][cH:20][cH:13][cH:23][cH:12]1)[c:29]1[cH:10][cH:21][cH:14][cH:22][cH:11]1.[cH:1]1[c:25]2[cH:24][cH:8][cH:2][cH:16][c:27]2[cH-:7][cH:26]1>>[CH:1]1=[CH:26][CH:7]([F:15])[c:27]2[cH:16][cH:2][cH:8][cH:24][c:25]21.[O:3]=[S:19](=[O:4])([N-:17][S:18](=[O:5])(=[O:6])[c:28]1[cH:9][cH:20][cH:13][cH:23][cH:12]1)[c:29]1[cH:10][cH:21][cH:14][cH:22][cH:11]1", "epd": [["LP-/Sigma+", [7], [7, 15]], ["Sigma-/LP+", [15, 17], [17]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[CH:1]([C:12](=[O:13])[c:16]1[cH:7][cH:26][c:14]([N:25]([CH3:17])[CH3:18])[cH:27][cH:8]1)=[S:30]([CH3:10])[CH3:11].[n+:2]1([CH3:15])[c:3]2[cH:19][cH:23][cH:21][cH:5][c:28]2[cH:9][c:29]2[c:4]1[cH:20][cH:24][cH:22][cH:6]2>>[CH:1]([CH:9]1[c:28]2[c:3]([cH:19][cH:23][cH:21][cH:5]2)[N:2]([CH3:15])[c:4]2[cH:20][cH:24][cH:22][cH:6][c:29]21)([C:12](=[O:13])[c:16]1[cH:7][cH:26][c:14]([N:25]([CH3:17])[CH3:18])[cH:27][cH:8]1)[S+:30]([CH3:10])[CH3:11]", "epd": [["Pi-/Sigma+", [1, 30], [1, 9]], ["Pi-/Pi+", [9, 28], [28, 3]], ["Pi-/LP+", [3, 2], [2]]]}
{"reaction_name": "Demjanov rearrangement", "rsmi": "[N:1]#[N+:8][CH2:2][CH:3]1[CH2:4][CH2:5][CH2:6]1>>[CH2:2]1[CH2:4][CH2:5][CH2:6][CH+:3]1.[N:1]#[N:8]", "epd": [["Sigma-/Sigma+", [3, 4], [2, 4]], ["Sigma-/LP+", [2, 8], [8]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1]1([O:24][Si:5]([CH3:25])([CH3:26])[CH3:27])=[C:19]([CH3:16])[CH2:6][CH2:4][O:17]1.[S:2]([c:8]1[cH:20][cH:12][cH:10][cH:15][cH:23]1)([C:18]([S:3]([c:9]1[cH:21][cH:13][cH:11][cH:14][cH:22]1)(=[O:28])=[O:29])=[CH2:7])(=[O:30])=[O:31]>>[C:1]1(=[O+:24][Si:5]([CH3:25])([CH3:26])[CH3:27])[O:17][CH2:4][CH2:6][C:19]1([CH2:7][C-:18]([S:2]([c:8]1[cH:20][cH:12][cH:10][cH:15][cH:23]1)(=[O:30])=[O:31])[S:3]([c:9]1[cH:21][cH:13][cH:11][cH:14][cH:22]1)(=[O:28])=[O:29])[CH3:16]", "epd": [["LP-/Pi+", [24], [1, 24]], ["Pi-/Sigma+", [19, 1], [19, 7]], ["Pi-/LP+", [7, 18], [18]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[CH3:5][CH:14]([CH3:6])[N+:23]1=[N:28][N:22]([CH:7]([CH3:29])[CH3:30])[C:31](=[CH2:21])[C-:8]1[C:13]([CH3:32])([CH3:33])[CH3:34].[O:1]=[S:20](=[O:2])([N:18]([F:17])[S:19](=[O:3])(=[O:4])[c:35]1[cH:9][cH:24][cH:15][cH:27][cH:12]1)[c:36]1[cH:10][cH:25][cH:16][cH:26][cH:11]1>>[CH3:5][CH:14]([CH3:6])[n+:23]1[c:8]([C:13]([CH3:32])([CH3:33])[CH3:34])[c:31]([CH2:21][F:17])[n:22]([CH:7]([CH3:29])[CH3:30])[n:28]1.[O:1]=[S:20](=[O:2])([N-:18][S:19](=[O:3])(=[O:4])[c:35]1[cH:9][cH:24][cH:15][cH:27][cH:12]1)[c:36]1[cH:10][cH:25][cH:16][cH:26][cH:11]1", "epd": [["LP-/Pi+", [8], [31, 8]], ["Pi-/Sigma+", [21, 31], [21, 17]], ["Sigma-/LP+", [17, 18], [18]]]}
{"reaction_name": "Diazonium hydrolysis to phenol", "rsmi": "[c:1]1([N+:2]#[N:3])[cH:4][cH:5][cH:6][cH:7][cH:8]1.[O:9]([H:10])[H:11]>>[c:1]1([O:9][H:10])[cH:4][cH:5][cH:6][cH:7][cH:8]1.[N:2]#[N:3].[H+:11]", "epd": [["LP-/Sigma+", [9], [1, 9]], ["Sigma-/LP+", [1, 2], [2]], ["Sigma-/LP+", [9, 11], [9]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[O:3]=[S:17](=[O:4])([N:16]([S:12][C:8]([F:9])([F:10])[F:11])[S:18](=[O:5])(=[O:6])[c:44]1[cH:23][cH:36][cH:32][cH:37][cH:24]1)[c:43]1[cH:21][cH:34][cH:31][cH:35][cH:22]1.[cH:1]1[cH:29][cH:41][c:49]([N:33]2[C:7](=[C:38]([c:2]3[cH:19][cH:50][cH:13][cH:51][cH:20]3)[O:14][CH3:52])[N:15]([c:56]3[cH:27][cH:46][cH:40][cH:47][cH:28]3)[N:53]=[C:45]2[c:39]2[cH:54][cH:25][cH:48][cH:26][cH:55]2)[cH:42][cH:30]1>>[O:3]=[S:17](=[O:4])([N-:16][S:18](=[O:5])(=[O:6])[c:44]1[cH:23][cH:36][cH:32][cH:37][cH:24]1)[c:43]1[cH:21][cH:34][cH:31][cH:35][cH:22]1.[cH:1]1[cH:29][cH:41][c:49](-[n:33]2[c:7]([C:38]([c:2]3[cH:19][cH:50][cH:13][cH:51][cH:20]3)([S:12][C:8]([F:9])([F:10])[F:11])[O:14][CH3:52])[n+:15](-[c:56]3[cH:27][cH:46][cH:40][cH:47][cH:28]3)[n:53][c:45]2-[c:39]2[cH:54][cH:25][cH:48][cH:26][cH:55]2)[cH:42][cH:30]1", "epd": [["LP-/Pi+", [15], [7, 15]], ["Pi-/Sigma+", [38, 7], [38, 12]], ["Sigma-/LP+", [12, 16], [16]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH:1]1=[CH:7][c:8]2[cH:13][cH:12][cH:23][cH:10][c:15]2[CH:24]1[Na:17].[O:2]=[N+:21]([O-:9])[c:18]1[cH:3][cH:5][c:11]([CH:19]=[CH:14][N+:16]([O-:20])=[O:22])[cH:6][cH:4]1>>[CH:1]1=[CH:7][c:8]2[cH:13][cH:12][cH:23][cH:10][c:15]2[CH:24]1[CH:19]([c:11]1[cH:5][cH:3][c:18]([N+:21](=[O:2])[O-:9])[cH:4][cH:6]1)[CH:14]=[N+:16]([O-:20])[O-:22].[Na+:17]", "epd": [["Sigma-/Sigma+", [24, 17], [24, 19]], ["Pi-/Pi+", [19, 14], [14, 16]], ["Pi-/LP+", [16, 22], [22]]]}
